US04053596
C. 1-[2-(3-Indenyl)ethyl]piperidine
The crude tosylate prepared as described in part B above (41.5 g, 0.13 M) and piperidine (28 g, 0.33 M) in 200 ml toluene are heated under reflux overnight. Ether is added to the warm reaction mixture until crystals begin forming. After cooling, the solid is removed by filtration and washed several times with ether. The filtrate and washes are combined and the solvents removed in vacuo. The oily residue is dissolved in ether, a small amount of insoluble material is removed by filtration, and the ether is removed from the filtrate leaving 29.7 g (99%) of brown oil. The sample is purified by distillation at reduced pressure recovering 86% as a yellow oil boiling 115°/0.05 mm. to 130°/0.1 mm.

reactant | tosylate | S(=O)(=O)([O-])C1=CC=C(C)C=C1
reactant | piperidine | 0.33 M, 28 g | N1CCCCC1 | C5H11N
reactant | Ether | CCOCC | C4H10O
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[2-(3-Indenyl)ethyl]piperidine | 29.7 g, 99% | C1C=C(C2=CC=CC=C12)CCN1CCCCC1 | C16H21N
